US07973012B2
Preparation of 1-benzyloxy-2-bromo-5-methyl-4-[4-[2-(methoxymethoxy)ethyl]benzyl]benzene
Then to a chloroform solution (1 L) of [4-(benzyloxy)-5-bromo-2-methylphenyl][4-[2-(methoxymethoxy)ethyl]phenyl]methanol (102 g) cooled in ice were added Et3SiH (46.7 mL, 0.293 mol) and BF3.Et2O (29.7 mL, 0.243 mol), and the mixture was stirred for 15 minutes at the same temperature. To the reaction solution cooled in ice was added a saturated sodium bicarbonate aqueous solution and warmed to room temperature. The resulting mixture was extracted with ethyl acetate, washed with brine, and then the organic layer was dried with anhydrous magnesium sulfate. The drying agent was filtered off, and the solvent was evaporated under reduced pressure. Thus obtained residue was purified with NH type silica gel column chromatography (hexane:ethyl acetate=19:1 to 9:1) to obtain the title compound (60 g, 68%) as a pale yellow oily compound.

reactant | [4-(benzyloxy)-5-bromo-2-methylphenyl][4-[2-(methoxymethoxy)ethyl]phenyl]methanol | 102 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1Br)C(O)C1=CC=C(C=C1)CCOCOC)C | C25H27BrO4
reactant | Et3SiH | 0.293 mol, 46.7 mL | [SiH](CC)(CC)CC | C6H16Si
reactant | BF3.Et2O | 0.243 mol, 29.7 mL | B(F)(F)F.CCOCC
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 1 L | C(Cl)(Cl)Cl | CHCl3
product | 1-benzyloxy-2-bromo-5-methyl-4-[4-[2-(methoxymethoxy)ethyl]benzyl]benzene | 60 g, 68% | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)C)CC1=CC=C(C=C1)CCOCOC)Br | C25H27BrO3
